US04710316
Manufacture of 2,2-dimethyl-3-(3-methylphenyl)-propionaldehyde
A pre-mix of 23.3 g of NaOH, 2.5 g of tetrabutylammonium iodide, 107 ml of water, 25 ml of toluene and 9 ml of tetrahydrofuran under argon was heated to 70° C. A mixture of 70 g (0.5 moles) of 3-methylbenzyl chloride and 50.4 g (0.7 moles) of isobutyraldehyde was added dropwise to this pre-mix within a period of 2 hours while stirring vigorously. The reaction mixture was then maintained at a temperature of 75° C. for 3 hours. After separating the phases and removing the solvents, 66.5 g of end product were obtained by fractional distillation at 0.12 mbar in a temperature range of from 50° C. to 52° C.

reactant | NaOH | 23.3 g | [OH-].[Na+]
reactant | water | 107 ml | O | H2O
reactant | 3-methylbenzyl chloride | 0.5 moles, 70 g | CC=1C=C(CCl)C=CC1 | C8H9Cl
reactant | isobutyraldehyde | 0.7 moles, 50.4 g | C(C(C)C)=O | C4H8O
catalyst | tetrabutylammonium iodide | 2.5 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2-dimethyl-3-(3-methylphenyl)-propionaldehyde | CC(C=O)(CC1=CC(=CC=C1)C)C | C12H16O
